US07485643B2
Step A: Preparation of 6-(N′-tert-butoxycarbonyl-hydrazino)-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester:
Pd2(dba)3 (4 mol %), t-butylcarbazate (4.00 equivalents), dppf (12 mol %) and Cs2CO3 (1.00 equivalent) are added to a solution of 6-bromo-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester (1.00 equivalent) in PhMe. The reaction mixture is heated in a sealed vial charged under a N2 atmosphere to 100° C. and stirred for 16 hours. After cooling to room temperature, the reaction mixture is diluted with methylene chloride and filtered. The filtrate is concentrated under reduced pressure. The product is purified by trituration or flash column chromatography if further purification is necessary.

reactant | t-butylcarbazate | 4.00 equivalents | C(C)(C)(C)OC(NN)=O | C5H12N2O2
reactant | Cs2CO3 | 1.00 equivalent | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 6-bromo-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester | 1.00 equivalent | COC(C1=C(C(=C(C=C1Br)F)F)NC1=C(C=CC=C1)Cl)=O | C14H9BrClF2NO2
solvent | PhMe | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 6-(N′-tert-butoxycarbonyl-hydrazino)-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester | COC(C1=C(C(=C(C=C1NNC(=O)OC(C)(C)C)F)F)NC1=C(C=CC=C1)Cl)=O | C19H20ClF2N3O4
